Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
brain lesion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH CHF and HTN who presented to an OSH after a
syncopal episode. He reports that he passed out while laying 
down
for his wife to put eye drops in his eyes. When he woke up he 
was
sweating and felt light headed and nauseous. He then vomited in
the ambulance on the way to ___. ___ at ___ showed 
left
frontal partially calcified mass with surrounding edema. He was
then transferred to ___ ED for further evaluation and
neurosurgery was consulted. 
 
Past Medical History:
-CHF
-HTN
-HLD
-Bilateral cataract surgery
 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission:
-------------
O: T: 97.3  BP: 159/83    HR: 70    R 16    O2Sats 95% RA
Gen: Comfortable, NAD.
HEENT: Pupils: PERRL        EOMs intact
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to 3-2
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

-------------
On discharge:
stable
 
Pertinent Results:
Please see OMR for pertinent results. 
 
Brief Hospital Course:
___ who presented ___ after a syncopal episode and was found to 
have a left frontal calcified lesion with surrounding edema on 
___. He was admitted for further workup.

#Brain lesion
He was started on Keppra and Dexamethasone. MRI +/- contrast 
showed left frontal lesion. CT abdomen and pelvis were negative 
for malignancy. 
During his hospital stay he remained neurologically intact.  
Given the appearance of the lesion on MRI and the fact that it 
is likely an incidental finding he will follow up with Dr. 
___ as an outpatient for treatment discussion. 
Dexamethasone will be tapered to off.

At the time of discharge he was tolerating a regular diet, 
ambulating without difficulty and afebrile with stable vital 
signs.
 
Medications on Admission:
-Potassium chloride 10 meq daily
-losartan 100mg daily
-carvedilol 12.5 mg BID
-chlorthalidone 25mg daily
-lovastatin 10mg QHS
-tamsulosin 0.4mg QHS
-vitamin D3 ___ units daily
-ASA 81mg daily
-Ibuprofen 800mg PRN
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Dexamethasone 2 mg PO TAPER AS DIRECTED 
___ every 6hrs
___ every 12hrs
___ every 12hrs
___: 2mg daily
___: stop 
RX *dexamethasone 2 mg taper tablet(s) by mouth taper as 
directed Disp #*17 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
5.  Omeprazole 20 mg PO DAILY 
While on Dexamethasone 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*7 
Capsule Refills:*0 
6.  Atorvastatin 20 mg PO QPM  
7.  Carvedilol 12.5 mg PO BID  
8.  Chlorthalidone 25 mg PO DAILY  
9.  Losartan Potassium 100 mg PO DAILY  
10.  Potassium Chloride 10 mEq PO DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Brain Mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

When to Call Your Doctor at ___ for:
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___